US04871771
(a) 2-(7-(4-bromophenylthio)heptylbenzoic acid
The compound of Example 14(a), 2-(7-bromoheptyl)benzoic acid (0.6 g., 2.01 mm), was reacted with 4-bromothiophenol (0.60 g., 3 mm), and triethylamine (1.12 ml, 8.05 mm) in DMF (35 ml) as in Example 14(b) to afford the desired product. This was further purified by flash chromatography over silica gel with ethyl acetate in hexane.

reactant | 2-(7-bromoheptyl)benzoic acid | 0.6 g | BrCCCCCCCC1=C(C(=O)O)C=CC=C1 | C14H19BrO2
reactant | 4-bromothiophenol | 0.60 g | BrC1=CC=C(C=C1)S | C6H5BrS
reactant | triethylamine | 1.12 ml | C(C)N(CC)CC | C6H15N
solvent | DMF | 35 ml | CN(C)C=O | C3H7NO
product | 7-(4-bromophenylthio)heptylbenzoic acid | BrC1=CC=C(C=C1)SCCCCCCCC1=C(C(=O)O)C=CC=C1 | C20H23BrO2S
